US08048897B2
(1) Synthesis of 2-Benzyloxy-1-bromo-4-fluorobenzene
Potassium carbonate (2.61 g, 18.8 mmol) was added to a solution of 2-bromo-5-fluorophenol (3.0 g, 15.7 mmol) in DMF (15.7 mL) and the mixture was stirred in a nitrogen stream at room temperature for 15 minutes. To this solution, benzyl bromide (2.69 g, 15.7 mmol) was added dropwise at the same temperature and the mixture solution was stirred at the same temperature overnight. To the reaction mixture was added a potassium hydrogensulfate aqueous solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution and dried (anhydrous magnesium sulfate), and then the solvent was distilled under reduce pressure. The obtained residue was purified by silica gel column chromatography (developing solution=n-hexane) to obtain the title compound (4.31 g, 98%) as a colorless oil.

reactant | Potassium carbonate | 18.8 mmol, 2.61 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-5-fluorophenol | 15.7 mmol, 3.0 g | BrC1=C(C=C(C=C1)F)O | C6H4BrFO
reactant | benzyl bromide | 15.7 mmol, 2.69 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium hydrogensulfate | S(=O)(=O)(O)[O-].[K+]
solvent | DMF | 15.7 mL | CN(C)C=O | C3H7NO
product | 2-Benzyloxy-1-bromo-4-fluorobenzene | 4.31 g, 98% | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)F)Br | C13H10BrFO
